US07964618B2
A suspension of 2,6-dichloronicotinic acid (15 g, 78.13 mmol) in Toluene (170 mL) was warmed to 90° C. under nitrogen. To this suspension was added N,N-dimethylformamide di-tert-butyl acetal (74.9 mL, 312.50 mmol) dropwise. The resulting solution was stirred at 90° C. for 5 hours. The reaction mixture was evaporated to dryness and redissolved in EtOAc (200 mL), and washed sequentially with saturated NaHCO3 (100 mL) and saturated brine (50 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 10 to 30% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford tert-butyl 2,6-dichloronicotinate (17.13 g, 88%) as a pale yellow oil.

reactant | 2,6-dichloronicotinic acid | 78.13 mmol, 15 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | N,N-dimethylformamide di-tert-butyl acetal | 312.50 mmol, 74.9 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | Toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2,6-dichloronicotinate | 17.13 g, 88% | ClC1=C(C(=O)OC(C)(C)C)C=CC(=N1)Cl | C10H11Cl2NO2
